US08133907B2
(R)-2-Dibenzylamino-3-(2-fluoro-phenyl)-propionic acid methyl ester
To a solution of (R)-2-Amino-3-(2-fluoro-phenyl)-propionic acid methyl ester (4 g, 17 mmol) and benzyl bromide (4.5 mL, 38 mmol) in 200 mL of acetonitrile is added potassium carbonate. After 5 hours the reaction is heated at 50° C. for 16 hours. The reaction mixture is then cooled to room temperature and is poured into 500 mL of saturated ammonium chloride. The product is extracted into dichloromethane and the combined organic phases are dried over sodium sulfate, filtered and concentrated. Purification of the crude residue by silica gel flash column chromatography gives the title compound.

reactant | (R)-2-Amino-3-(2-fluoro-phenyl)-propionic acid methyl ester | 17 mmol, 4 g | COC([C@@H](CC1=C(C=CC=C1)F)N)=O | C10H12FNO2
reactant | benzyl bromide | 38 mmol, 4.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | 500 mL | [Cl-].[NH4+]
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | (R)-2-Dibenzylamino-3-(2-fluoro-phenyl)-propionic acid methyl ester | COC([C@@H](CC1=C(C=CC=C1)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C24H24FNO2
